US08404679B2
c) rac-[(3S,4R)-4-(3,4-Dichloro-phenyl)-1-(4-methanesulfonyl-piperazine-1-carbonyl)-pyrrolidin-3-yl]-ethyl-carbamic acid tert-butyl ester (X-4)
To a solution of rac-[(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl-carbamic acid tert-butyl ester (0.25 g, 0.69 mmol) in CH2Cl2 (5 ml) was added ethyl-diisopropyl-amine (0.20 ml, 1.1 mmol) and 4-methanesulfonyl-piperazine-1-carbonyl chloride (189 mg, 0.83 mmol). Stirring was continued over night at RT, concentrated under vacuo and purification by flash chromatography (SiO2, EtOAc) afforded 0.37 g (97%) of the title compound as a white solid. ES-MS m/e: 549.3 (M+H+).

reactant | rac-[(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl-carbamic acid tert-butyl ester | 0.69 mmol, 0.25 g | C(C)(C)(C)OC(N(CC)[C@@H]1CNC[C@H]1C1=CC(=C(C=C1)Cl)Cl)=O | C17H24Cl2N2O2
reactant | ethyl-diisopropyl-amine | 1.1 mmol, 0.20 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methanesulfonyl-piperazine-1-carbonyl chloride | 0.83 mmol, 189 mg | CS(=O)(=O)N1CCN(CC1)C(=O)Cl | C6H11ClN2O3S
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | rac-[(3S,4R)-4-(3,4-Dichloro-phenyl)-1-(4-methanesulfonyl-piperazine-1-carbonyl)-pyrrolidin-3-yl]-ethyl-carbamic acid tert-butyl ester | 0.37 g, 97% | C(C)(C)(C)OC(N(CC)[C@@H]1CN(C[C@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)N1CCN(CC1)S(=O)(=O)C)=O | C23H34Cl2N4O5S
